US07456164B2
Intermediate 100: 4-(4-{[1-(diphenylmethyl)azetidin-3-yl]methoxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (6.18 g, 30.4 mmol), (1-benzhydryl-azetidin-3-yl)-methanol (7 g, 28 mmol), PPh3 (8 g, 30.4 mmol), and DIAD (69 mL, 30.4 mmol), were reacted together similarly to general procedure C. The crude material was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate:diethylamine (50:45:5 to 0:95:5) to provide the title compound (5.03 g, 41%) as a yellow solid. LRMS APCI+ m/z 439 [MH]+.

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 30.4 mmol, 6.18 g | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | (1-benzhydryl-azetidin-3-yl)-methanol | 28 mmol, 7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)CO | C17H19NO
reactant | PPh3 | 30.4 mmol, 8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 30.4 mmol, 69 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | 4-(4-{[1-(diphenylmethyl)azetidin-3-yl]methoxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile | 5.03 g, 41% | C1(=CC=CC=C1)C(N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)C#N)C1=CC=CC=C1 | C29H30N2O2
